US05001004
To a 4-neck 1 L flask fitted with nechanical agitation, condenser, addition funnel, nitrogen bubbler, and temperature controller was added, in order, THF (450 g), triethylamine (I2.2 g, 0.12 mol), and 4-hydroxy stilbene (19.6 g, 0.10 mol). To this solution at room temperature was slowed added with stirring, via addition funnel, acetic anhdyride (12.3 g, 0.12 mol). When the addition of acetic anhydride was complete, the reaction solution was heated to 60° C. and held at this temperature with stirring for 2 hours. The reaction was cooled to room temperature then THF was removed in vacuo. The resulting residue was diluted with methylene chloride (500 mL) then extracted with 0.1 N HCl (1 ×500 mL), 30% saturated NaHCO3 (1 ×500 mL) and saturated NaCl (1 ×500 mL). The organic layer was dried over anhydrous sodium sulfate then filtered and concentrated in vacuo to give the 4-acetoxy stilbene as a light tan needle-like crystalline powder (22.7 g, 95%).

reactant | triethylamine | 0.12 mol, 2 g | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy stilbene | 0.10 mol, 19.6 g | OC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H12O
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 450 g | C1CCOC1 | C4H8O
product | 4-acetoxy stilbene | C(C)(=O)OC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C16H14O2
